US06878728B1
2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)-3,5-dinitrobenzoic Acid (334)
A mixture of 59 mg (0.1 mMol) of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate, 50 of 2-fluoro-3,5-dinitronitrobenzoic acid and 65 mg (0.2 mMol) of cesium carbonate in 0.5 mL of dimethyl formamide was stirred at rt for 2 h. The mixture was diluted with ethyl acetate and extracted with 1N HCl. Evaporation of the solvent and chromatography on silica gel (5% methanolic ammonia in dichloromethane) gave the title compound (25 mg) as a yellow foam. H NMR: 0.82(6H,dd), 1.42(1H,m), 1.63(1H,m), 1.90(2H,m), 2.46(1H,dd), 2.8(1H,dd), 2.82-3.02(5H,m), 3.2(1H,m), 3.6-3.95(6H,m), 4.94(1H,q), 5.58(1H,d), 6.02(2H,s), 6.61(1H,d), 6.75(2H,d), 6.82(1H,d), 7.05(2H,d), 7.3(1H,d), 7.45(1H,s), 8.6(2H,ss).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.1 mMol, 59 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | 2-fluoro-3,5-dinitronitrobenzoic acid | FC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C7H2FN3O8
reactant | cesium carbonate | 0.2 mMol, 65 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)-3,5-dinitrobenzoic Acid | 25 mg | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(=O)N[C@@H](CC2=CC=C(OC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C=C2)[C@@H](CN(CC(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O | C35H38N4O16S
